US05977152
(2R,3R)-2-(2,4-Difluorophenyl)-3-[[trans-2-[(E)-2-[4-(trifluoromethyl)phenyl]vinyl]-1,3-dioxan-5-yl]thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol
Reaction and treatment were carried out in the same manner as in Example 4 using (2R,3R)-2-(2,4-difluorophenyl)-3-[(1,3-dihydroxy-2-propyl)thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol and trans-4-(trifluoromethyl)cinnamaldehyde as described in Reference example 22 to obtain the desired compound as a major product (yield: 62%). Physical data and spectral data coincided with those of the compound described in Example 2.

reactant | (2R,3R)-2-(2,4-difluorophenyl)-3-[(1,3-dihydroxy-2-propyl)thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)SC(CO)CO)O | C15H19F2N3O3S
reactant | trans-4-(trifluoromethyl)cinnamaldehyde | FC(C1=CC=C(/C=C/C=O)C=C1)(F)F | C10H7F3O
product | (2R,3R)-2-(2,4-Difluorophenyl)-3-[[trans-2-[(E)-2-[4-(trifluoromethyl)phenyl]vinyl]-1,3-dioxan-5-yl]thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)S[C@H]1CO[C@@H](OC1)\C=C\C1=CC=C(C=C1)C(F)(F)F)O | C25H24F5N3O3S
